US08686189B2
Ethyl (1S,3R,4S)-4-azido-3-[(t-butoxycarbonyl)amino]cyclohexanecarboxylate
Sodium azide (357.6 mg) was added at room temperature to a solution (2 mL) of ethyl (1S,3R,4R)-3-[(t-butoxycarbonyl)amino]-4-methanesulfonyloxycyclohexanecarboxylate (1.01 g) in N-methyl-2-pyrrolidone, followed by stirring at 60° C. for 74 hours. Water and ethyl acetate were added to the reaction mixture, and the organic layer was washed with aqueous saturated sodium bicarbonate solution and water, followed by drying over magnesium sulfate anhydrate. The solvent was evaporated under reduced pressure, and the residue was subjected to silica gel column chromatography (n-hexane:ethyl acetate=4:1), to thereby yield 601.7 mg of the title compound. Spectral data of this compound were found to be identical with those of the compound of Example 5.

reactant | Sodium azide | 357.6 mg | [N-]=[N+]=[N-].[Na+]
reactant | ethyl (1S,3R,4R)-3-[(t-butoxycarbonyl)amino]-4-methanesulfonyloxycyclohexanecarboxylate | 2 mL, 1.01 g | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](CC[C@H]1OS(=O)(=O)C)C(=O)OCC | C15H27NO7S
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | Ethyl (1S,3R,4S)-4-azido-3-[(t-butoxycarbonyl)amino]cyclohexanecarboxylate | N(=[N+]=[N-])[C@@H]1[C@@H](C[C@H](CC1)C(=O)OCC)NC(=O)OC(C)(C)C | C14H24N4O4
